US05270324
This compound was prepared according to the procedure of Example 127, but the methyl 3-(R)-hydroxybutanoate was first alkylated with methyl iodide as described by Keck et al., (J. Org. Chem., 1985, 4317) to give methyl 3-(R)-hydroxy-2-(S)methylbutanoate. The latter was transformed into the thiol according to the procedure of Example 127.

reactant | methyl 3-(R)-hydroxybutanoate | O[C@@H](CC(=O)OC)C | C5H10O3
reactant | methyl iodide | CI | CH3I
product | methyl 3-(R)-hydroxy-2-(S)methylbutanoate | O[C@@H]([C@@H](C(=O)OC)C)C | C6H12O3
